Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
___
1. Coronary artery bypass graft times 4 (left internal
    mammary artery to left anterior descending artery, right
    internal mammary artery to posterior descending artery,
    and saphenous vein grafts to diagonal and obtuse
    marginal arteries).
2. Endoscopic harvesting of the long saphenous vein.

 
History of Present Illness:
___ year old man with dyslipidemia and HTN, c/o exertional chest 
"burning" s/p abnormal stress test, presented for cardiac 
catheterization today which showed multivessel diseasea.  
Cardiac surgery consulted for revascularization evaluation.
 
Past Medical History:
Hyperlipidemia
Hypertension
Ocular hypertension
Cataract
Retinal tear
Open angle glaucoma
Posterior vitreous detachment
Meibomitis
Perygium
Pinguecula
 
Social History:
___
Family History:
No premature coronary artery disease
 
Physical Exam:
Pulse:77, NSR Resp: 16   O2 sat:98% on RA Temp: 98.4F 
B/P  Right:  146/80   Left: 157/74
 
Height:  59in   Weight: 170lbs

General: middle aged man in NAD
Skin: Warm [x] Dry [x] Intact [x]
HEENT: NCAT [x] PERRLA [x] EOMI [x]
Neck: Supple [x] Full ROM [x] JVD: none []
Chest: Lungs clear bilaterally [x]
Heart: RRR [x] Irregular [] Murmur [] Grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+ [x]
Extremities: Warm [x], well-perfused [x], Edema: none 
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2   Left: 2
DP           Right: 2   Left: 2
___           Right: 2   Left: 2
Radial       Right: TR band in place  Left:2

Carotid Bruit  -  Right:none    Left:none
 
Pertinent Results:
INTRAOPERATIVE ECHO: Place: ___ Date: 
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Atrium - Long Axis Dimension:  *4.2 cm  <= 4.0 cm  
Left Atrium - Four Chamber Length:  4.9 cm  <= 5.2 cm  
Right Atrium - Four Chamber Length:  4.6 cm  <= 5.0 cm  
Left Ventricle - Septal Wall Thickness:  *1.4 cm  0.6 - 1.1 cm  
Left Ventricle - Inferolateral Thickness:  *1.4 cm  0.6 - 1.1 cm 
 
Left Ventricle - Diastolic Dimension:  3.5 cm  <= 5.6 cm  
Left Ventricle - Ejection Fraction:  60% to 65%  >= 55%  
Left Ventricle - Lateral Peak E':  0.10 m/s  > 0.08 m/s  
Left Ventricle - Septal Peak E':  *0.08 m/s  > 0.08 m/s  
Left Ventricle - Ratio E/E':  8  < 13  
Aorta - Sinus Level:  *3.8 cm  <= 3.6 cm  
Aorta - Ascending:  3.4 cm  <= 3.4 cm  
Aortic Valve - Peak Velocity:  1.7 m/sec  <= 2.0 m/sec  
Aortic Valve - LVOT VTI:  18     
Mitral Valve - E Wave:  0.7 m/sec     
Mitral Valve - A Wave:  0.5 m/sec     
Mitral Valve - E/A ratio:  1.40     
Mitral Valve - E Wave deceleration time:  *139 ms  140-250 ms  
TR Gradient (+ RA = PASP):  22 mm Hg  <= 25 mm Hg  
Findings  
This study was compared to the prior study of ___.  
LEFT ATRIUM: Mild ___. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. 
LEFT VENTRICLE: Mild symmetric LVH with normal cavity size. 
Suboptimal technical quality, a focal LV wall motion abnormality 
cannot be fully excluded. Overall normal LVEF (>55%). No resting 
LVOT gradient. 
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
AORTA: Mildy dilated aortic root. Normal ascending aorta 
diameter. 
AORTIC VALVE: Mildly thickened aortic valve leaflets. No AS. 
Mild (1+) AR. 
MITRAL VALVE: Mildly thickened mitral valve leaflets. No MR. 
___ VALVE: Mildly thickened tricuspid valve leaflets. Mild 
[1+] TR. Normal PA systolic pressure. 
PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not well seen. 
PERICARDIUM: Very small pericardial effusion. No 
echocardiographic signs of tamponade. 
CONCLUSIONS: 
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. The aortic root is mildly 
dilated at the sinus level. The aortic valve leaflets are mildly 
thickened (?#). There is no aortic valve stenosis. Mild (1+) 
aortic regurgitation is seen. The mitral leaflets are mildly 
thickened. No mitral regurgitation is seen. The tricuspid valve 
leaflets are mildly thickened. The estimated pulmonary artery 
systolic pressure is normal. There is a very small pericardial 
effusion. There are no echocardiographic signs of tamponade. 
IMPRESSION: Suboptimal image quality. Very small pericardial 
effusion adjacent to lateral wall. Mild symmetric left 
ventricular hypertrophy with preserved biventricular cavity size 
and global/regional systolic function. Mild aortic 
regurgitation. 
Compared with the prior study (images reviewed) of ___, 
regional wall motion abnormalities are not appreciated. Aortic 
regurgitation is present. The effusion is new.   

___ 06:20AM BLOOD WBC-16.4* RBC-3.76* Hgb-11.2* Hct-33.0* 
MCV-88 MCH-29.8 MCHC-34.0 RDW-12.9 Plt ___
___ 06:20AM BLOOD Plt ___
___ 06:20AM BLOOD Mg-1.9

___ CXR
In comparison with the study of ___, the chest tube has been 
removed and there is no definite pneumothorax.  Otherwise, 
little change in 
the appearance of the heart and lungs. 

 
Brief Hospital Course:
Mr. ___ was a same day admit and on ___ was brought directly 
to the operating room where he underwent a coronary artery 
bypass graft x 4. Please see operative note for surgical 
details. Following surgery he was transferred to the CVICU for 
invasive monitoring in stable condition. He had post-operative 
bleeding with a drop in hematocrit to 28.5 when 2 units of blood 
were transfused. He remained stable hemodynamically and 
postoperative bleeding resolved. Later this day he was weaned 
from sedation, awoke neurologically intact and extubated. On 
post-op day one he was started on beta-blockers and diuretics 
and gently diuresed towards his pre-op weight. Later this day he 
was transferred to the telemetry floor for further care. Chest 
tubes and epicardial pacing wires were removed per protocol. He 
was started on Imdur for his radial artery harvest which will 
continue for 3 months. His creatinue peaked at 2.0 mild ___ 
currently trending down. His WBC were also elevate but are 
trending down. Cultures negative. He remains afebrile and his 
wounds are healing well. Physical therapy worked with patient 
post-op for assistance with strength and mobility. He was 
discharged home with services on POD 4 with appropriate 
follow-up instructions. 
 
Medications on Admission:
AMLODIPINE - amlodipine 5 mg tablet. one tablet(s) by mouth once
a day in am -  (Prescribed by Other Provider)
METOPROLOL SUCCINATE - metoprolol succinate ER 50 mg BID
LIPITOR 40mg daily
TRIAMTERENE-HYDROCHLOROTHIAZID - triamterene 75
mg-hydrochlorothiazide 50 mg tablet. one tablet(s) by mouth once
a day in am -  (Prescribed by Other Provider)
Aspirin 81mg po daily
Multivitamin 1 tab po daily
 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Acetaminophen 650 mg PO Q4H:PRN pain, fever 
5. Docusate Sodium 100 mg PO BID 
6. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
RX *isosorbide mononitrate [Imdur] 60 mg 1 tablet extended 
release 24 hr(s) by mouth once a day Disp #*90 Tablet Refills:*0
7. Metoprolol Tartrate 75 mg PO TID 
RX *metoprolol tartrate [Lopressor] 50 mg 1.5 (One and a half) 
tablet(s) by mouth three times a day Disp #*90 Tablet Refills:*1
8. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen [Percocet] 5 mg-325 mg ___ tablet(s) 
by mouth every four (4) hours Disp #*40 Tablet Refills:*0
9. Triamterene-Hydrochlorothiazide 1 CAP PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary artery bypass graft x 4
Past medical history:
Hyperlipidemia
Hypertension
Ocular hypertension
Cataract
Retinal tear
Open angle glaucoma
Posterior vitreous detachment
Meibomitis
Perygium
Pinguecula
 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with 
Incisions: 
Sternal - healing well, no erythema or drainage 
LegLeft - healing well, no erythema or drainage.
Edema trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___